US08648087B2
Step G: N-(4-(benzo[d]oxazol-5-yloxy)-3-methylphenyl)-6-(2-methoxyethoxy)quinazolin-4-amine:
To a solution of 4-chloro-6-(2-methoxyethoxy)quinazoline (0.199 g, 0.83 mmol) and 4-(benzo[d]oxazol-5-yloxy)-3-methylbenzenamine (0.200 g, 0.83 mmol) in isopropanol (2 mL) and DCE (2 mL). After heating to 80° C. for 12 hours, the mixture was concentrated under reduced pressure. The residue was partitioned between saturated NaHCO3 and EtOAc. The aqueous phase was extracted 2× with EtOAc, the combined organic phase was washed with brine, dried (Na2SO4), filtered and condensed. The residue was chromatographed to provide the product (0.100 g, 27%) as off-white solids. MS APCI (+) m/z 443 (M+1) detected; 1H NMR (400 MHz, DMSO-d6) δ 9.59 (s, 1H), 8.76 (s, 1H), 8.50 (s, 1H), 7.96 (s, 1H), 7.75 (m, 4H), 7.52 (dd, 1H), 7.26 (m, 1H), 7.10 (m, 1H), 6.97 (d, 1H), 4.30 (m, 2H), 3.76 (m, 2H), 3.36 (s, 3H), 2.24 (s, 3H).

reactant | 4-chloro-6-(2-methoxyethoxy)quinazoline | 0.83 mmol, 0.199 g | ClC1=NC=NC2=CC=C(C=C12)OCCOC | C11H11ClN2O2
reactant | 4-(benzo[d]oxazol-5-yloxy)-3-methylbenzenamine | 0.83 mmol, 0.200 g | O1C=NC2=C1C=CC(=C2)OC2=C(C=C(C=C2)N)C | C14H12N2O2
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | N-(4-(benzo[d]oxazol-5-yloxy)-3-methylphenyl)-6-(2-methoxyethoxy)quinazolin-4-amine | 0.100 g, 27% | O1C=NC2=C1C=CC(=C2)OC2=C(C=C(C=C2)NC2=NC=NC1=CC=C(C=C21)OCCOC)C | C25H22N4O4
